US07592463B2
(1R, 2R, 6R, 7R)-Tricyclo[5.2.1.0˜2,6˜]dec-8-en-3-one (Table 4, Entry 1):
Prepared according to general procedure A from 2-cyclopenten-1-one (50 μL, 0.60 mmol), cyclopentadiene (74 μL, 0.90 mmol), 70% aqueous perchloric acid (10.3 μL, 0.12 mmol) and (2S, 5S)-5-benzyl-3-methyl-2-(5-methyl-furan-2-yl)-imidazolidin-4-one (32.4 mg, 0.12 mmol) in water (150 μL) for 12 hours at 0° C. Purification by silica gel chromatography (5:1 pentane:ether) provided the title compound as a volatile white powder in 81% yield (72 mg, 0.49 mmol); 15:1 endo:exo, endo 48% ee. IR (film) 3058, 2964, 2941, 2868, 1730, 1475, 1402, 1341, 1318, 1225, 1172, 1129, 1090, 1040, 936.0, 902.3, 840.8, 804.2, 732.8 cm−1; 1H NMR (300 MHz, CDCl3) δ 6.22 (dd, J=5.7, 2.7 Hz, 1H, CH═CH), 6.11 (dd, J=5.7, 3.0 Hz, 1H, CH═CH), 3.19 (m, 1H, CHCH═CH), 3.00 (m, 1H, CHCH═CH), 2.97 (m, 1H, CHCO), 2.85 (m, 1H, C(H)HCO), 2.02 (m, 4H, CHCH2CH2, C(H)HCO, and CHCH2CH), 1.48 (m, 2H, CH2CH2CO); 13C NMR (75 MHz, CDCl 3) δ 222.6, 136.3, 135.0, 54.7, 52.6, 47.8, 47.4, 41.6, 40.9, 23.1; HRMS (CI) exact mass calc'd for (C10H12O) requires m/z 148.0888, found m/z 148.0887. [α]D+122.3 (c=1.0, CHCl3). Product ratios were determined by GLC analysis (140° C., 23 psi); (1R, 2R, 6R, 7R) endo isomer tr=7.1 min, and (1S, 2S, 6S, 7S) endo isomer tr=6.7 min, exo isomers tr=6.1 min.

reactant | 2-cyclopenten-1-one | 0.60 mmol, 50 μL | C1(C=CCC1)=O | C5H6O
reactant | cyclopentadiene | 0.90 mmol, 74 μL | C1=CC=CC1 | C5H6
reactant | perchloric acid | 0.12 mmol, 10.3 μL | Cl(=O)(=O)(=O)O | ClHO4
reactant | (2S, 5S)-5-benzyl-3-methyl-2-(5-methyl-furan-2-yl)-imidazolidin-4-one | 0.12 mmol, 32.4 mg | C(C1=CC=CC=C1)[C@H]1C(N([C@H](N1)C=1OC(=CC1)C)C)=O | C16H18N2O2
solvent | water | 150 μL | O | H2O
product | (1R, 2R, 6R, 7R)-Tricyclo[5.2.1.0˜2,6˜]dec-8-en-3-one | 81% yield | [C@H]12[C@H]3C(CC[C@@H]3[C@@H](C=C1)C2)=O | C10H12O
